Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amiodarone
 
Attending: ___.
 
Chief Complaint:
Dysphagia
 
Major Surgical or Invasive Procedure:
Hemodialysis (___)
EGD (___)

 
History of Present Illness:
Mr. ___ is an ___ M with PMH significant for 
cricopharyngeal dysphagia s/p traumatic neck fracture ___, 
T2DM, ESRD on HD, Afib on coumadin, CHF (EF ___ and anemia 
of chronic disease who presents with regurgitation of foods.  
Since his hospitalization at ___ for neck fracture and 
subsequent rehab stay, he has been home with 24hr care and 
maintained on diet of soft and pureed foods.  He tolerated this 
diet well until 3 days ago when he experienced choking and 
regurgitation of brisket. He had no other symptoms through his 
dinner of finely diced chicken yesterday evening.  However, 
since that meal he has been unable to keep down either solids or 
liquids.  He is able to swallow, however after several minutes 
to hours he regurgitates the contents.  He denies drooling, 
dysarthria, food spillage or dysphonia. He does endorse 
increased cough with clear to yellow sputum production.  He 
denies fevers or chills. He has occasional lower abd pain with 
bowel movements every ___ days, which he attributes to 
constipation. He usually takes senna + dulcolax for this. He 
denies melena or hematochezia.
 
Past Medical History:
T2DM - now resolved s/p weight loss, A1c<5% in ___, not on 
treatment
ESRD- most likely multifactorial from diabetic nephropathy  
and obstructive nephropathy. On dialysis since ___.  
Atrial fibrillation- Pt is anticoagulated on coumadin.  
Hypertension  
CHF outpatient TTE ___ with LVEF ___  
Obesity  
Gout  
PVD  
Anemia of chronic disease- Secondary to renal dysfunction.  
Sleep apnea  
Autonomic dysfunction (no longer on midodrine and fludrocort)  
 
Social History:
___
Family History:
His grandparents and father have hypertension and diabetes.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS - 98.4, 116/64, 89, 21, 95%RA ___ 107 Wt 94.3kg  
GENERAL - elderly M who appears comfortable, appropriate and in 
NAD  
HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - Lungs are clear to ausculatation bilaterally, moving air 
well and symmetrically, resp unlabored, no accessory muscle use  

HEART - PMI non-displaced, irreg irreg, S1-S2 nml, ___ LLSB 
murmur, no rubs or gallops  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 1+ peripheral pulses (DPs)  
NEURO - awake, A&Ox3.  

DISCHARGE PHYSICAL EXAM:  
VS -  T 98, BP 115/51, HR 72, RR 18, O2 97%RA
GENERAL - Elderly ___ old M who appears comfortable, in no 
acute distress, laying in bed
HEENT - NC/AT, PERRL 3 -> 2mm, EOMI, sclerae anicteric, MMM, OP 
clear  
NECK - supple, no thyromegaly, no carotid bruits  
LUNGS - Lungs CTAB, moving air well and symmetrically, resp 
unlabored, no accessory muscle use  
HEART - RRR, ___ systolic ejection murmur heard best LLSB
ABDOMEN - obese, soft NT, NABS, no rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 1+ peripheral pulses (DPs)
NEURO - awake, A&Ox3, CNs II-XII grossly intact

 
Pertinent Results:
___ 11:20AM BLOOD WBC-19.1*# RBC-3.46* Hgb-11.8*# 
Hct-36.2*# MCV-105*# MCH-34.1* MCHC-32.6 RDW-13.9 Plt ___
___ 06:00AM BLOOD WBC-8.0# RBC-2.92* Hgb-9.8* Hct-30.2* 
MCV-103* MCH-33.5* MCHC-32.4 RDW-13.6 Plt ___
___ 11:20AM BLOOD Neuts-84.8* Lymphs-6.6* Monos-7.3 Eos-0.8 
Baso-0.5
___ 11:20AM BLOOD ___ PTT-50.9* ___
___ 06:00AM BLOOD ___ PTT-53.2* ___
___ 11:20AM BLOOD Glucose-126* UreaN-42* Creat-5.9*# Na-139 
K-5.3* Cl-100 HCO3-22 AnGap-22*
___ 06:00AM BLOOD Glucose-85 UreaN-53* Creat-7.1*# Na-139 
K-5.0 Cl-103 HCO3-24 AnGap-17
___ 11:43AM BLOOD Lactate-3.2*
___ 07:15AM BLOOD Lactate-1.5

EGD REPORT (___):
Impression: Moderate esophagitis in mid-esophagus. No stricture 
identified in the esophagus 
Mild to moderate antral gastritis was seen
Otherwise normal EGD to third part of the duodenum
 
Recommendations: Return to the floor
Okay to start on clears. If does fine overnight, advance to 
pureed diet in AM PPI 40 mg PO BID. Repeat EGD in ___ to evaluate for healing of esophagitis 

 
Brief Hospital Course:
ACTIVE ISSUES:
# Esophagitis - Mr. ___ presented with regurgitation of 
liquid and solid foods without cough which is an acute change 
from his baseline cricopharyngeal dysphagia. We considered 
mechanical (stricture, web, ring) vs. functional (impaired 
motility) vs. inflammatory causes (esophagitis). The onset of 
dysphagia with solids, ie: diced chicken, that progressed to 
liquids increases likelihood of mechanical obstruction. His 
history of T2DM does increase his risk of motility dysfunction 
such as gastroparesis. However, gastroparesis is less likely to 
have such an acute onset. EGD ultimatley showed moderate 
esophagitis with mild-moderate antral gastritis. There was no 
evidence of mechanical obstruction. Esophagitis was treated with 
pantoprazole 40mg PO BID and diet advanced as tolerated. Plan to 
repeat EGD in 8wks with Dr ___ to evaluate for healing of 
esophagitis.  

# Aspiration Pneumonia - Mr. ___ dysphagia and 
regurgitation of food without coughing, which was concerning for 
silent aspiration. He was afebrile an denied chills. Laboratory 
tests demonstrated leukocytosis and CXR demonstrated a increased 
heterogeneous opacity along the medial right lung base, 
compatible with aspiration or infection. We also considered 
aspiration pneumonitis given +UA findings represent alternative 
etiology for leukocytosis. Cardiac cause unlikely given no 
evidence of volume overload on physical exam. Blood cultures 
were sent. Treatment was initiated with Vancomycin 1gm IV per HD 
protocol, Levofloxacin 750mg IV x1 and metronidazole 500mg IV x1 
on admission. Treatment was later revised to cefpodoxime 200mg 
PO post-HD and metronidazole 500mg PO Q8h. Plan to discharge the 
patient on moxifloxacin 400mg Q24h for a total of 7days of 
therapy (end on ___.

# UTI - UA on admission (+) for 90 WBC without epithelial cells. 
Urine cultures were sent and are pending. Urinary pathogens are 
being covered by antibiotics on board for pneumonia. 

# Atrial fibrillation  - One episode of Afib w/ RVR while in the 
ED in the setting of inability to tolerate PO metoprolol, which 
resolved with IV metoprolol mg x1. No recurrence while on the 
floor, therefore telemetry was discontinued. Once patient 
tolerated POs, home metoprolol was reinitiated. Of note, INR was 
3.3 during hospital course, therefore warfarin held for 1 day. 
Will instruct patient to restart warfarin at home dose and f/u 
with outpatient ___ clinic on ___.

# Anemia of chronic disease c/b macrocytic anemia  - New MCV 
elevation to 105 on admission. Hct initially hemoconcentrated to 
36, then returned to baseline of ___.  Recommend follow-up 
with outpatient PCP. Continue Epo and Venofer at HD as 
outpatient. Consider checking B12 and folate as an outpatient. 

CHRONIC ISSUES:

# Non-Ischemic Dilated CM  - Last Cardiology note in ___ 
system did not document EF and no recent ECHO was found in ___ 
system, however prior discharge summary document EF ___. No 
signs of volume overload at this time. We continued home 
metoprolol. Lasix utilized at home on non-HD days, though of 
unclear effect as patient is anuric.  Lasix held given patient 
received HD here on ___.

# ESRD on HD: Schedule TThSat.  Patient received HD at ___ on 
___. 

# HTN: BP monitored. Continued home metoprolol. 

# Gout: Continued home allopurinol.

# Hypothyroidism: Continued home levothyroxine. 

# Autonomic dysfunction: No evidence of autonomic instability.

# Sleep apnea: Patient declined CPAP  

TRANSITIONAL ISSUES:
- F/u blood cultures x2
- F/u urine cultures
- INR elevated to 3.3 while inpatient, therefore need f/u with 
___ clinic on ___
- GI Clinic will call to schedule appointment for f/u endoscopy 
as outpatient, however if they do not call, gave pt phone 
___
- Advance diet as tolerated from purees to soft foods over 
several days. 
- F/u macrocytic anemia with outpatient PCP.
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Pharmacy.
1. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
2. Finasteride 5 mg PO DAILY 
3. Warfarin 3 mg PO DAILY16 
4. Warfarin 1 mg PO ASDIR 
Take ___ to 1 tab as directed by ___ clinic 
5. Levothyroxine Sodium 100 mcg PO DAILY 
6. Omeprazole 40 mg PO DAILY 
7. sevelamer HYDROCHLORIDE *NF* 3200 mg OTHER TID W MEALS 
Take four 800mg tablets by mouth three times per day with meals. 

8. Lidocaine Jelly 2% (Urojet) 1 Appl TP PRN straight cath 
Use as directed for voiding 
9. Furosemide 80 mg PO ONCE DAILY ON NON-HD DAYS 
10. Metoprolol Succinate XL 50 mg PO BID 
11. Nephrocaps 1 CAP PO DAILY 
12. Cinacalcet 30 mg PO BID 
13. Allopurinol ___ mg PO ASDIR 
Take ___ of 100mg tablet after HD and on ___ 

 
Discharge Medications:
1. Allopurinol ___ mg PO ASDIR 
Take ___ of 100mg tablet after HD and on ___ 
2. Levothyroxine Sodium 100 mcg PO DAILY 
3. Nephrocaps 1 CAP PO DAILY 
4. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
5. moxifloxacin *NF* 400 mg Oral Daily Aspiration Pneumonia 
Duration: 6 Days 
RX *moxifloxacin [Avelox] 400 mg 1 tablet(s) by mouth once a day 
Disp #*6 Tablet Refills:*0
6. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 17 gram 1 packet by mouth once a 
day Disp #*1 Box Refills:*0
7. Metoprolol Succinate XL 50 mg PO BID 
8. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
9. sevelamer HYDROCHLORIDE *NF* 3200 mg OTHER TID W MEALS 
Take four 800mg tablets by mouth three times per day with meals. 

10. Warfarin 3 mg PO DAILY16 
11. Warfarin 1 mg PO ASDIR 
Take ___ to 1 tab as directed by ___ clinic 
12. Cinacalcet 30 mg PO BID 
13. Finasteride 5 mg PO DAILY 
14. Furosemide 80 mg PO ONCE DAILY ON NON-HD DAYS 
15. Lidocaine Jelly 2% (Urojet) 1 Appl TP PRN straight cath 
Use as directed for voiding 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses-
  Aspiration pneumonia
  Esophageal dysmotility
  Esophagitis
  Urinary tract infection
  ESRD
Secondary diagnoses-
  Atrial fibrillation
  Anemia of chronic disease
  Hypertension
  Gout

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
   It was a pleasure taking care of you at ___ 
___.  You were admitted for work-up of your 
swallowing problem.  We used a small video camera to look down 
your throat and found no significant problems.  We would like 
you to follow-up in ___ clinic for further 
evaluation of your swallowing.

You also developed a pneumonia likely from inhaling saliva and 
food particles and you should continue taking antibiotics for 
the full course as prescribed.  The antibiotic you are taking 
does not need to be adjusted in patients on dialysis.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___